US08232284B2
Potassium tert-butoxide (0.89 g, 7.90 mmol) and 3-chloro-2-fluoro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridine (2.52 g, 8.69 mmol) were added to an N,N-dimethylacetamide solution (2.5 ml) of 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol (1.0 g, 3.95 mmol), and stirred at 180° C. for 14 hours under a nitrogen atmosphere in a sealed tube. The reaction solution was cooled with ice, water was added, and extracted with chloroform/methanol (10:1). The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Moritex NH, hexane:ethyl acetate=3:1 to 3:2) to obtain 6-({3-chloro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine (1.46 g, yield: 71%) as an orange oil.

reactant | Potassium tert-butoxide | 7.90 mmol, 0.89 g | CC(C)([O-])C.[K+]
reactant | 3-chloro-2-fluoro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridine | 8.69 mmol, 2.52 g | ClC=1C(=NC=C(C1)OCCCOC1OCCCC1)F | C13H17ClFNO3
reactant | N,N-dimethylacetamide | 2.5 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | 3.95 mmol, 1.0 g | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
solvent | water | O | H2O
product | 6-({3-chloro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridin-2-yl}oxy)-N-(5-methylpyrazin-2-yl)quinazoline-4-amine | 1.46 g, yield: 71% | ClC=1C(=NC=C(C1)OCCCOC1OCCCC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C | C26H27ClN6O4
